US08609886B2
Crude 7-octenal (30.5 g) (90.0% in gas chromatography simple area %, net: 27.5 g, 0.22 mol; cis-6-octenal: 4.7% in gas chromatography simple area %, and trans-6-octenal: 4.5% in gas chromatography simple area %) was dissolved in 95% by mass acetone aqueous solution (300.0 g). After adding Jones reagent (3M chromic acid-sulfuric acid aqueous solution) (100.0 mL) and stirring at room temperature for 2 hours, isopropanol (20.0 g) was added thereto. After the precipitate was filtered off and acetone was distilled off from the filtrate, the filtrate was extracted with ethyl acetate. After the ethyl acetate layer was washed with water and saturated sodium chloride solution, the solvent was distilled off to obtain a crude product. Subsequently, this product was dissolved in methanol (300.0 g). After adding p-toluenesulfonic acid mono hydrate (3.0 g) thereto, the solution was heated at 60° C. for 2 hours. The solution was extracted with ethyl acetate, and the organic layer was washed with water and sodium carbonate aqueous solution. After that, the organic layer obtained by distilling off the solvent was distilled under a reduced pressure of 500 Pa. With this procedure, crude methyl 7-octenoate (34.3 g) (90.0% in gas chromatography simple area %, net: 30.9 g, net: 0.20 mol, yield: 91%; cis-6-octenonitrile: 4.7% in gas chromatography simple area %, and trans-6-octenonitrile: 4.5% in gas chromatography simple area %) was obtained as a distillate.

reactant | 7-octenal | 0.22 mol, 30.5 g | C(CCCCCC=C)=O | C8H14O
reactant | Jones reagent | 3M, 100.0 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | 20.0 g | C(C)(C)O | C3H8O
solvent | acetone | 300.0 g | CC(=O)C | C3H6O
solvent | methanol | 300.0 g | CO | CH4O
catalyst | p-toluenesulfonic acid mono hydrate | 3.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | methyl 7-octenoate | 0.20 mol, 34.3 g, yield: 91% | C(CCCCCC=C)(=O)OC | C9H16O2
